US06117873
c2) Dimethyl N-(7-nitro-2,3-dimethoxyquinoxalin-5-ylmethyl)-α-aminoethylphosphonate
150 mg (0.569 mmol) of 2,3-dimethoxy-7-nitroquinoxaline-5-carbaldehyde, 90 mg (1.04 eq.) of dimethyl α-aminoethylphosphonate and 500 mg (7.3 eq.) of magnesium sulfate are dissolved in 5 ml of DMSO and stirred at room temperature for 24 hours. The reaction mixture is filtered off, the filtrate is evaporated and the residue is dissolved in 5 ml of methanol. 0.027 ml (1 eq.) of acetic acid, 78 mg (2 eq.) of sodium acetate and 36 mg (1.2 eq.) of sodium cyanoborohydride are added and the mixture is stirred at room temperature for 48 hours. The reaction mixture is treated with 1N hydrochloric acid, stirred for 30 minutes and then washed with diethyl ether. The aqueous phase is rendered basic with a 2N sodium hydroxide solution and extracted with ethyl acetate. The combined ethyl acetate phases are dried using brine and magnesium sulfate and evaporated. The title compound is obtained as a yellow resin.

reactant | 2,3-dimethoxy-7-nitroquinoxaline-5-carbaldehyde | 0.569 mmol, 150 mg | COC1=NC=2C=C(C=C(C2N=C1OC)C=O)[N+](=O)[O-] | C11H9N3O5
reactant | dimethyl α-aminoethylphosphonate | 90 mg, 1.04 eq. | NC(C)P(OC)(OC)=O | C4H12NO3P
reactant | magnesium sulfate | 500 mg, 7.3 eq. | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | acetic acid | 0.027 ml, 1 eq. | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 78 mg, 2 eq. | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 36 mg, 1.2 eq. | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | Dimethyl N-(7-nitro-2,3-dimethoxyquinoxalin-5-ylmethyl)-α-aminoethylphosphonate | [N+](=O)([O-])C1=CC(=C2N=C(C(=NC2=C1)OC)OC)CNC(C)P(OC)(OC)=O | C15H21N4O7P
